US06613942B1
3-Chloro-4-hydroxybenzoic Acid {2-Methoxy-4-[2-(2-phenylpiperidin-1-yl)ethoxy]benzylidene}hydrazide
This compound was prepared analogously to the compound described in the previous example starting from resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (resin—[building block 1]) (2 g, ˜2 mmoles), 4-(2-bromoethoxy)-2-methoxybenzaldehyde ([building block 2]) (0.73 g, 1.5 equivs.), and 2-phenylpiperidine ([building block 3]) (3.0 g, 10 equivs.). After cleavage with 50% trifluoroacetic acid, the residue (1.0 g) was purified by column chromatography on silica gel (28 g) eluting with a mixture of methanol and dichloromethane (1:13). This afforded 0.24 g of the title compound.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-(2-bromoethoxy)-2-methoxybenzaldehyde | 0.73 g | BrCCOC1=CC(=C(C=O)C=C1)OC | C10H11BrO3
reactant | 2-phenylpiperidine | 3.0 g | C1(=CC=CC=C1)C1NCCCC1 | C11H15N
product | 3-Chloro-4-hydroxybenzoic Acid {2-Methoxy-4-[2-(2-phenylpiperidin-1-yl)ethoxy]benzylidene}hydrazide | COC1=C(C=NNC(C2=CC(=C(C=C2)O)Cl)=O)C=CC(=C1)OCCN1C(CCCC1)C1=CC=CC=C1 | C28H30ClN3O4
